US07737279B2
A332.1: 2-(3-Iodo-benzyloxy)-tetrahydro-pyran
para-Toluenesulfonic acid (100 mg, cat.) was added in one portion to a cooled solution (0 C) of 3-iodobenzyl alcohol (4.71 g, 0.02 mol) and dihydropyran (1.86 g, 0.022 mol) in dichloromethane (50 mL) under a nitrogen atmosphere. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature over 1 hr. Diethyl ether (100 mL) was then added followed by saturated sodium hydrogen carbonate solution (100 mL). The organic layer was separated, dried (MgSO4) and evaporated in vacuo to yield the crude product (6.59 g) A332.1, which was used immediately without further purification. HPLC YMC S-5 4.6×33 mm (2 min grad): retention time 2.16 min, no M+H+ observed.

reactant | 3-iodobenzyl alcohol | 0.02 mol, 4.71 g | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | dihydropyran | 0.022 mol, 1.86 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | para-Toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(3-Iodo-benzyloxy)-tetrahydro-pyran | 6.59 g | IC=1C=C(COC2OCCCC2)C=CC1 | C12H15IO2
